US08138187B2
2-(Benzofuran-3-yl)ethanethiol (Ind-94)
The thiosulfuric acid S-[2-(benzofuran-3-yl)ethyl]ester sodium salt just prepared (3.63 g, contains x mol of water) was suspended in 50 per cent strength phosphoric acid (60 ml) with exclusion of oxygen (argon atmosphere). The reaction mixture obtained was then covered with a layer of diethyl ether (75 ml) and heated under reflux (7 h), with vigorous stirring, until solid was no longer to be observed in the aqueous phase. After cooling, the two phases were separated and the aqueous phase was extracted with diethyl ether (4×15 ml). The combined ethereal phases were washed with water (2×10 ml) and dried over sodium sulfate. The residue (yellowish oil, 1.71 g) obtained after removal of the diethyl ether contained, according to NMR, approx. 80% of the desired thiol Ind-94. Simple purification and dissolving experiments showed that Ind-94 is relatively unstable and by-products already form on standing in an ethereal solution (detection by NMR spectroscopy). The crude product obtained was therefore employed for the thioether synthesis without further working up.

reactant | thiosulfuric acid S-[2-(benzofuran-3-yl)ethyl]ester sodium salt | [Na+].O1C=C(C2=C1C=CC=C2)CCSS([O-])(=O)=O
reactant | water | O | H2O
reactant | phosphoric acid | 60 ml | P(O)(O)(O)=O | H3O4P
reactant | oxygen | O=O | O2
solvent | diethyl ether | 75 ml | C(C)OCC | C4H10O
product | 2-(Benzofuran-3-yl)ethanethiol | O1C=C(C2=C1C=CC=C2)CCS | C10H10OS
